US04126687
A mixture of 5.68 parts of 1,3-dihydro-1-(3-hydroxypropyl)-5-methyl-2H-benzimidazol-2-one methanesulfonate, 4.62 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 3.7 parts of sodium carbonate and 45 parts of N,N-dimethylformamide is stirred for 1 hour at 60° C. The reaction mixture is cooled and poured onto water. The precipitated product is filtered off and purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of N,N-dimethylformamide and water, yielding 2 parts (24%) of 8-[3-(1,3-dihydro-5-methyl-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one; mp. 255.5° C.

reactant | 1,3-dihydro-1-(3-hydroxypropyl)-5-methyl-2H-benzimidazol-2-one methanesulfonate | CS(=O)(=O)O.OCCCN1C(NC2=C1C=CC(=C2)C)=O
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[3-(1,3-dihydro-5-methyl-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 24% | CC1=CC2=C(N(C(N2)=O)CCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C1 | C24H29N5O2
